US07935722B2
N-(6-Bromo-8-fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide
Prepare the tide compound by essentially following the procedure as described in Preparation 4 (Method 2) with 2-fluoro-4-bromophenylhydrazine (Preparation 14) and N-(4-oxo-cyclohexyl)-isobutyramide, to obtain the title compound as a tan foam in 32% yield. MS (ES): m/z 353, 355 (M+H), 351, 353(M−H); HPLC (Method A): Rt=2.34, (89%).

reactant | 2-fluoro-4-bromophenylhydrazine | FC1=C(C=CC(=C1)Br)NN | C6H6BrFN2
reactant | N-(4-oxo-cyclohexyl)-isobutyramide | O=C1CCC(CC1)NC(C(C)C)=O | C10H17NO2
product | N-(6-Bromo-8-fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide | 32% yield | BrC=1C=C2C=3CC(CCC3NC2=C(C1)F)NC(C(C)C)=O | C16H18BrFN2O
